US04460596
29.7 g of methyl α-isocyanoacetate, 120 g of triethylamine, 450 ml of tetrahydrofuran and 48.4 g of 2-thienylcarbonyl chloride are treated in the same manner as described in Preparation 1-(1). 53.9 g of 5-(2-thienyl)-4-methoxycarbonyloxazole are thereby obtained.

reactant | methyl α-isocyanoacetate | 29.7 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | triethylamine | 120 g | C(C)N(CC)CC | C6H15N
reactant | 2-thienylcarbonyl chloride | 48.4 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | 5-(2-thienyl)-4-methoxycarbonyloxazole | 53.9 g, Yield: 86% | S1C(=CC=C1)C1=C(N=CO1)C(=O)OC | C9H7NO3S
